US04780125
N-[2-(3,3,3-trifluoro-1-propen-1-yl)-phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea.
5.2 g of N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-phenylcarbamate are added to a solution of 5 g of 2-(3,3,3-trifluoro-1-propen-1-yl)-phenylsulfonamide and 3.3 g of 1,5-diazabicyclo[5,4,0]undec-5-one in 80 ml of dioxan, and the mixture is stirred for 3 hours at 20°-25° C. The clear reaction solution is then taken up in 300 ml of water and the aqueous solution is acidified with 2N hydrochloric acid to pH 4-5. The resinous precipitate is extracted from the aqueous phase with ethyl acetate and the organic extract is dried and concentrated.

reactant | N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-phenylcarbamate | 5.2 g | COC1=NC(=NC(=N1)C)N(C([O-])=O)C1=CC=CC=C1
reactant | 2-(3,3,3-trifluoro-1-propen-1-yl)-phenylsulfonamide | 5 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)N)(F)F | C9H8F3NO2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | N-[2-(3,3,3-trifluoro-1-propen-1-yl)-phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | FC(C=CC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)(F)F | C15H14F3N5O4S
